US06498165B1
Step A: 2-methylthio-4-[6-(methylcarbonyl)benzimidazol-1-yl]pyrimidine
To a solution of 2-methylthio-4-[6-(N-methyl-N-methoxyaminocarbonyl)benzimidazol-1-yl]pyrimidine (26 mg, 0.079 mmol) in CH2Cl2 (0.8 mL) at 0° C. was added CH3MgBr (255 μL, 1.4M) dropwise and stirred for 3 h at 0° C. The reaction mixture was quenched with saturated aqueous NH4Cl and extracted with CH2Cl2. The combined extracts were washed with brine and dried over Na2SO4. The crude material was purified by preparative thin layer chromatography eluting with 3% MeOH/CH2Cl2 to obtain 15.7 mg of the title compound. Partial 1H NMR (500 MHz, CDCl3): δ 8.94 (s, 1H); 8.79 (s, 1H); 8.67 (d, J=5.0 Hz, 1H); 8.04 (d, J=7.5 Hz, 1H); 7.9 (d, J=7.5 Hz, 1H); 7.28 (d, J=5.0 Hz, 1H); 2.74 (s, 6H).

reactant | 2-methylthio-4-[6-(N-methyl-N-methoxyaminocarbonyl)benzimidazol-1-yl]pyrimidine | 0.079 mmol, 26 mg | CSC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)C(=O)N(OC)C | C15H15N5O2S
reactant | CH3MgBr | 1.4M, 255 μL | C[Mg+].[Br-]
solvent | CH2Cl2 | 0.8 mL | C(Cl)Cl | CH2Cl2
product | 2-methylthio-4-[6-(methylcarbonyl)benzimidazol-1-yl]pyrimidine | 15.7 mg | CSC1=NC=CC(=N1)N1C=NC2=C1C=C(C=C2)C(=O)C | C14H12N4OS
